US08039469B2
Preparation of 4-[({4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]phenyl}carbamoyl)amino]benzamide
Following the procedure described in example 34, reaction of 4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]aniline (22 mg, 0.06 mmol) (22 mg, 0.06 mmol, triphosgene (18 mg, 0.06 mmol) and 4-aminobenzamide (25 mg, 0.18 mmol) gave the title compound as off-white solid (10.6 mg, 33% yield). MS (ESI) m/z 531.2.

reactant | 4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]aniline | 0.06 mmol, 22 mg | N1(CCOCC1)C1=NC(=NC(=N1)N1C2COCC1CC2)C2=CC=C(N)C=C2 | C19H24N6O2
reactant | triphosgene | 0.06 mmol, 18 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-aminobenzamide | 0.18 mmol, 25 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
product | 4-[({4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]phenyl}carbamoyl)amino]benzamide | 10.6 mg, 33% yield | N1(CCOCC1)C1=NC(=NC(=N1)N1C2COCC1CC2)C2=CC=C(C=C2)NC(=O)NC2=CC=C(C(=O)N)C=C2 | C27H30N8O4
